US03978140
A 500-milliliter, 4-necked glass reaction vessel equipped with a magnetic stirring bar, pressure-equalizing addition funnel, thermometer, and reflux condenser vented to a mercury bubbler was charged with 9.6 grams (0.248 mole plus 5% excess) of sodium borohydride and 64 grams (0.30 mole) of m-phenoxybenzoic acid and flushed 10 minutes with dry nitrogen. The reaction vessel was cooled in an external ice/water bath as 0.2 liter of tetrahydrofuran was added dropwise followed by 40.6 milliliters (0.33 mole) of boron trifluoride diethyl etherate over a 1 hour period while maintaining a temperature of 0°-10°C. The reaction mixture was then stirred for 12 hours at 20°C followed by 2 hours at 40°C. The product was isolated using a procedure similar to that described in Example 1 giving 48 grams (80% yield) of m-phenoxybenzyl alcohol, n20D 1.5935.

reactant | sodium borohydride | 0.248 mole, 9.6 grams | [BH4-].[Na+]
reactant | m-phenoxybenzoic acid | 0.30 mole, 64 grams | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | boron trifluoride diethyl etherate | 0.33 mole, 40.6 milliliters | B(F)(F)F.CCOCC
catalyst | mercury | [Hg] | Hg
product | m-phenoxybenzyl alcohol | 48 grams, 80% yield | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
